US08022062B2
3-(2,2,2-Trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Cool a solution of 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2 g, 7.72 mmol), triethylamine (1.4 mL, 10.1 mmol) and DCM (50 mL) in a cryogenic bath set at −30° C. and add dropwise trifluoromethanesulfonic anhydride (1.7 mL, 10.1 mmol) over 20 min. Stir at −30° C. for 2 hand then warm to ambient temperature overnight. Wash the reaction mixture sequentially with water (100 mL), 1N aqueous HCl (100 mL), water (200 mL), and brine (200 mL). Dry the organic layer over Na2SO4 and concentrate in vacuo to give the title compound as a colorless to light yellow oil (2.7 g, 89%) that was used without purification. Obtain an analytical sample by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give the title compound as an off-white waxy solid. GC-MS m/z: 391 (M+).

reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.72 mmol, 2 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
reactant | triethylamine | 10.1 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 10.1 mmol, 1.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,2,2-Trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | FC(C(=O)N1CCC2=C(CC1)C(=CC=C2)OS(=O)(=O)C(F)(F)F)(F)F | C13H11F6NO4S
